US07208623B2
A solution of (E)-5-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3-oxo-pent-4-enoic-acid-ethylester (1.6 g, 3.97 mmol), Ru[(1R,2R)-p-TsNCH(C6H5)CH(C6H5)NH2]Cl(η6-p-cymene) (12.6 mg, 0.02 mmol) and a mixture of HCOOH (1.095 g, 23.8 mmol)/NEt3 (0.963 g, 9.52 mmol) is heated in DMF (6.0 ml) at 50° C. for 20 h. After that the solution is diluted with MTBE (5 ml) and neutralised with NaHCO3 (4 ml). Standard aquous work-up with NaCl solution and extraction with MTBE and removel of the solvent give the crude product. Chromatography on silica gel using a 4:1 hexane-MTBE mixture as eluent to afford of (E)-5-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3-hydroxy-pent-4-enoic-acid-ethylester.

reactant | (E)-5-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3-oxo-pent-4-enoic-acid-ethylester | 3.97 mmol, 1.6 g | C(C)OC(CC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)=O)=O | C25H22FNO3
reactant | HCOOH | 23.8 mmol, 1.095 g | C(=O)O | CH2O2
reactant | NEt3 | 9.52 mmol, 0.963 g | CCN(CC)CC | C6H15N
reactant | NaHCO3 | 4 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 6.0 ml | CN(C)C=O | C3H7NO
solvent | MTBE | 5 ml | CC(C)(C)OC | C5H12O
solvent | hexane MTBE | CCCCCC.CC(C)(C)OC
product | (E)-5-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3-hydroxy-pent-4-enoic-acid-ethylester | C(C)OC(CC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)O)=O | C25H24FNO3
